US05922871
1-[N-(3-Hydroxypropyl)carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene
By the same procedure as described in the example 1, synthesis was carried out starting with 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid and using 3-amino-1-propanol. Then, the product was recrystallized using ethyl acetate and ether to give the desired compound.

reactant | 4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C(=O)O)C=C1 | C20H24N4O3
reactant | 3-amino-1-propanol | NCCCO | C3H9NO
product | 1-[N-(3-Hydroxypropyl)carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene | Yield: 76% | OCCCNC(=O)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C | C23H31N5O3
